US04618617
To a mixture of 4.13 g of 3-aminomethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole, 1.56 g of triethylamine and 60 ml of THF was added dropwise with stirring 3.3 g of α-bromopropionyl bromide at 0°-5° C. After stirring for 1 hour at room temperature, the reaction mixture was diluted with water and extracted with benzene. The organic phase was successively washed with sodium bicarbonate solution and water, dried over sodium sulfate and evaporated. The residue was chromatographed over silica gel using benzene-ethyl acetate (5:1, v/v). Crystallization of the clean fractions from diisopropyl ether yielded 4.88 g of 3-(2-bromopropionylaminomethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole as colorless needles, m.p. 98°-99° C.

reactant | 3-aminomethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 4.13 g | NCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C17H16FN3O
reactant | triethylamine | 1.56 g | C(C)N(CC)CC | C6H15N
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | α-bromopropionyl bromide | 3.3 g | BrC(C(=O)Br)C | C3H4Br2O
solvent | water | O | H2O
product | 3-(2-bromopropionylaminomethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 4.88 g | BrC(C(=O)NCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C)C | C20H19BrFN3O2
